US07595329B2
Step 3. Methyl 1-{[4-(aminomethyl)piperidin-1-yl]methyl}cyclopentanecarboxylate
A solution of methyl 1-[(4-{[(tert-butoxycarbonyl)amino]methyl}piperidine-1-yl)methyl]cyclopentanecarboxylate (1.16 g, 3.27 mmol, Step2) in CH2Cl2 (25 mL) and trifluoroacetic acid (5 mL) was stirred at room temperature for 1.5 h. The reaction mixture was then concentrated and basified with sat. NaHCO3 aq. (100 mL), extracted with CHCl3 (100 mL) for five times. The combined extract was dried and concentrated to give 0.831 g (100%) of title compound as yellow syrup.

reactant | methyl 1-[(4-{[(tert-butoxycarbonyl)amino]methyl}piperidine-1-yl)methyl]cyclopentanecarboxylate | 3.27 mmol, 1.16 g | C(C)(C)(C)OC(=O)NCC1CCN(CC1)CC1(CCCC1)C(=O)OC | C19H34N2O4
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | Methyl 1-{[4-(aminomethyl)piperidin-1-yl]methyl}cyclopentanecarboxylate | 0.831 g, 100% | NCC1CCN(CC1)CC1(CCCC1)C(=O)OC | C14H26N2O2
